US07585874B2
N-[2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-yl]-nicotinamide
As described for Example 48, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-ylamine (92 mg, 0.32 mmol) was converted, using nicotinic acid instead of cyclopropanecarboxylic acid, to the title compound (19.4 mg, 14%) which was obtained as an off-white solid. MS: m/e=396.0 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-ylamine | 0.32 mmol, 92 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)N)C1 | C17H14N4O
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
product | N-[2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-yl]-nicotinamide | 19.4 mg, 14% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)NC(C2=CN=CC=C2)=O)C1 | C23H17N5O2
